US06630476B2
4-[Bis[2-methoxyethyl)amino]-7-(2,4-dichlorophenyl)-2,5-dimethylpyrrolo[3,4-d]pyrimidine
Part F: 4-[Bis[2-methoxyethyl)amino]-7-(2,4-dichlorophenyl)-2,5-dimethyl-pyrrolo[3,4-d]pyrimidine hydrochloride salt: The compound of part E of Example 2 (0.1 g, 0.306 mmol) in dichloromethane (10.0 mL) was treated with bis (2-methoxyethyl)amine (123 mg, 0.92 mmol, 3 eq.) and refluxed for 3 days. The reaction mixture was concentrated in vacuum and recrystallized the solid to afford desired product as a yellow solid (HCl salt, 67 mg, mp 235-236° C., 48% yield). Anal. calcd. for C20H25Cl3N4O2: C, 52.08; H, 5.46; N, 11.85. Found: C, 52.24; H, 5.48; N, 12.18.

reactant | 4-[Bis[2-methoxyethyl)amino]-7-(2,4-dichlorophenyl)-2,5-dimethyl-pyrrolo[3,4-d]pyrimidine hydrochloride salt | Cl.COCCN(C1=C2C(NC(=N1)C)=C(N=C2C)C2=C(C=C(C=C2)Cl)Cl)CCOC
reactant | bis (2-methoxyethyl)amine | 0.92 mmol, 123 mg, 3 eq. | COCCNCCOC | C6H15NO2
solvent | dichloromethane | 10.0 mL | ClCCl | CH2Cl2
product | 4-[Bis[2-methoxyethyl)amino]-7-(2,4-dichlorophenyl)-2,5-dimethylpyrrolo[3,4-d]pyrimidine | 67 mg, 48% yield | COCCN(C1=C2C(NC(=N1)C)=C(N=C2C)C2=C(C=C(C=C2)Cl)Cl)CCOC | C20H24Cl2N4O2
